US04061746
2-[(trans-2-Cyclohexylcyclopentyl)imino]hexahydroazepine hydrochloride
By the procedure described in Example 25(A) only substituting for cis-2-phenylcyclopentylamine hydrochloride an appropriate amount of trans-2-phenylcyclopentylamine hydrochloride, M.P. 142°-143° C, the hydrochloride salt of trans-2-cyclohexylcyclopentylamine is obtained, M.P. 199°-200° C. Following the procedure of Example 23 only substituting for cis-2-phenylcyclopentylamine hydrochloride and appropriate amount of trans-2-cyclohexylcyclopentylamine hydrochloride and employing a reaction time of 38 days, the desired product is obtained, M.P. 208°-210° C.

reactant | cis-2-phenylcyclopentylamine hydrochloride | Cl.C1(=CC=CC=C1)[C@@H]1[C@@H](CCC1)N
reactant | trans-2-cyclohexylcyclopentylamine hydrochloride | Cl.C1(CCCCC1)[C@H]1[C@@H](CCC1)N
product | 2-[(trans-2-Cyclohexylcyclopentyl)imino]hexahydroazepine hydrochloride | Cl.C1(CCCCC1)[C@H]1[C@@H](CCC1)N=C1NCCCCC1 | InChI=1S/C17H30N2.ClH/c1-3-8-14(9-4-1)15-10-7-11-16(15)19-17-12-5-2-6-13-18-17;/h14-16H,1-13H2,(H,18,19);1H/t15-,16+;/m0./s1
